US09340556B2
To a solution of (5R,6R,7R)-benzhydryl 7-((Z)-2-(((1-(tert-butoxy)-2-methyl-1-oxopropan-2-yl)oxy)imino)-2-(2-((tert-butoxycarbonyl)amino)-5-chlorothiazol-4-yl)acetamido)-3-(chloromethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate 5-oxide (10.5 g, 11.50 mmol) in acetone (120 mL) was added sodium iodide (2.58 g, 17.24 mmol). The mixture was stirred at room temperature over 1.5 h. LCMS indicated completion of the reaction. The solid was filtered off, the filtrate was concentrated under vacuum, the residue was purified twice by CombiFlash Rf automated silica gel chromatography (120 g column), eluting with EtOAc/Hexanes (0-45%) to afford (5R,6R,7R)-benzhydryl 7-((Z)-2-(((1-(tert-butoxy)-2-methyl-1-oxopropan-2-yl)oxy)imino)-2-(2-((tert-butoxycarbonyl)amino)-5-chlorothiazol-4-yl)acetamido)-3-(iodomethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate 5-oxide (7.5 g, 7.75 mmol, 67.4% yield) as a light brown foaming solid. LCMS: (M+H)+: 967.9.

reactant | (5R,6R,7R)-benzhydryl 7-((Z)-2-(((1-(tert-butoxy)-2-methyl-1-oxopropan-2-yl)oxy)imino)-2-(2-((tert-butoxycarbonyl)amino)-5-chlorothiazol-4-yl)acetamido)-3-(chloromethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate 5-oxide | 11.50 mmol, 10.5 g | C(C)(C)(C)OC(C(C)(C)O\N=C(/C(=O)N[C@H]1[C@H]2[S@@](CC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)CCl)=O)\C=1N=C(SC1Cl)NC(=O)OC(C)(C)C)=O | C39H43Cl2N5O10S2
reactant | sodium iodide | 17.24 mmol, 2.58 g | [I-].[Na+]
solvent | acetone | 120 mL | CC(=O)C | C3H6O
product | (5R,6R,7R)-benzhydryl 7-((Z)-2-(((1-(tert-butoxy)-2-methyl-1-oxopropan-2-yl)oxy)imino)-2-(2-((tert-butoxycarbonyl)amino)-5-chlorothiazol-4-yl)acetamido)-3-(iodomethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate 5-oxide | 7.75 mmol, 7.5 g, 67.4% yield | C(C)(C)(C)OC(C(C)(C)O\N=C(/C(=O)N[C@H]1[C@H]2[S@@](CC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)CI)=O)\C=1N=C(SC1Cl)NC(=O)OC(C)(C)C)=O | C39H43ClIN5O10S2
